### PR TITLE
[Merged by Bors] - refactor: generalise compact from CompleteLattice to PartialOrder

### PR DESCRIPTION
**Pull request by edwin1729**
`IsCompactElement` assumes a `CompleteLattice` structure on the type for which it is defined. But a `PartialOrder` will suffice and this is the textbook definition of compact https://en.wikipedia.org/wiki/Compact_element.
Also it is currently defined in a non-standard way. The standard definition uses directed sets. Changing this has
indeed simplified most proofs by removing an `rw` into this more standard form.

---

Note to reviewers: moving `IsCompactElement` out of the `CompleteLattice` namespace caused the loss of being able to use dot notation [here](https://github.com/leanprover-community/mathlib4/pull/33061/changes#diff-2e06453359871b8a74315294d1f7825b7b5aa1221c69b4e058893b2c9418230fR498) and [here](https://github.com/leanprover-community/mathlib4/pull/33061/changes#diff-1d4a166e29849096ebe0e5d25bd4dc5f97db1d3b8caf1703177034160e77a310R350). Would like help fixing that

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 1]
```diff
@@ -57,6 +57,13 @@ complete lattice, well-founded, compact
 
 open Set
 
+/-- An element `k` is compact if any directed set with `sSup` above
+`k` has already got above `k` at some point in the set.
+Such an element is also called "finite" or "S-compact". -/
+def IsCompactElement {α : Type*} [PartialOrder α] [SupSet α] (k : α) :=
+  ∀ s : Set α, s.Nonempty → DirectedOn (· ≤ ·) s → k ≤ sSup s → ∃ x ∈ s, k ≤ x
```
Comment (plp127) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]: Instead of `sSup`, can we use `IsLUB` here? Does this definition work even when that supremum doesn't exist sometimes?

Comment (b-mehta) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: I think IsLUB should work and would be better here

File: Mathlib/Order/BooleanGenerators.lean [hunk 2]
```diff
@@ -77,7 +77,8 @@ lemma atomistic (hS : BooleanGenerators S) (a : α) (ha : a ≤ sSup S) : ∃ T
   obtain ⟨C, hC, rfl⟩ := IsCompactlyGenerated.exists_sSup_eq a
   have aux : ∀ b : α, IsCompactElement b → b ≤ sSup S → ∃ T ⊆ S, b = sSup T := by
     intro b hb hbS
-    obtain ⟨s, hs₁, hs₂⟩ := hb S hbS
+    -- rw [] at hb
```
Comment (b-mehta) [inline Mathlib/Order/BooleanGenerators.lean]: I guess this wasn't meant to be merged?

**Review by b-mehta — COMMENTED** [review]
The loss of dot notation is because the def's name used to be a prefix of the relevant lemmas, but the new name isn't any more. You could move the lemmas out of CompleteLattice, which might make sense to do, currently most lemmas about CompleteLattice outside this file aren't in that namespace.
Nice work though!

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 1 above)
Comment (edwin1729) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: something like this?
```
def IsCompactElement {α : Type*} [PartialOrder α] (k : α) :=
  ∀ (s : Set α) (u : α),
    s.Nonempty →
    DirectedOn (· ≤ ·) s →
    IsLUB s u →
    k ≤ u →
    ∃ x ∈ s, k ≤ x
```

**Comment by edwin1729** [comment]
> The loss of dot notation is because the def's name used to be a prefix of the relevant lemmas, but the new name isn't any more. You could move the lemmas out of CompleteLattice, which might make sense to do, currently most lemmas about CompleteLattice outside this file aren't in that namespace. Nice work though!

I think I will just leave it as is. Since dot notation could be used if future lemmas where placed in the `CompleteLattice` namespace

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: Yea exactly. In a complete lattice, or a directed-complete partial order, these two are equivalent, but it's nice to be able to talk about compact elements in other cases. (eg this is what wikipedia does)

File: Mathlib/Order/BooleanGenerators.lean (hunk 2 above)
Comment (edwin1729) [reply Mathlib/Order/BooleanGenerators.lean]: Yes, removed [here](https://github.com/leanprover-community/mathlib4/compare/786ef0fc55725998de8a0c687ca39c5d4c23758e..0b80fbd422251e215a2b49ec526c08869a8055e8). Thanks!

File: Mathlib/Order/CompactlyGenerated/Basic.lean (hunk 1 above)
Comment (edwin1729) [reply Mathlib/Order/CompactlyGenerated/Basic.lean]: addressed [here](https://github.com/leanprover-community/mathlib4/pull/33061/changes/e27873af83f82371842337c387cae09e4c989314)

File: Mathlib/Order/CompactlyGenerated/Basic.lean [hunk 3]
```diff
@@ -56,6 +56,16 @@ complete lattice, well-founded, compact
...
+/-- An element `k` is compact if any directed set with `LUB` (least upper bound) above
+`k` has already got above `k` at some point in the set.
+Such an element is also called "finite" or "S-compact". -/
+def IsCompactElement {α : Type*} [PartialOrder α] (k : α) :=
+  ∀ (s : Set α) (u : α),
+    s.Nonempty →
+    DirectedOn (· ≤ ·) s →
+    IsLUB s u →
+    k ≤ u →
+    ∃ x ∈ s, k ≤ x
```
Comment (b-mehta) [inline Mathlib/Order/CompactlyGenerated/Basic.lean]:
```suggestion
  ∀ (s : Set α) (u : α), s.Nonempty → DirectedOn (· ≤ ·) s → IsLUB s u → k ≤ u → ∃ x ∈ s, k ≤ x
```
